US04883802
Preparation of 1- {N- [(2-oxo-1-pyrrolidinyl)acetyl]glycyl}-4-piperidinecarboxamide
27.8 g of (2-oxo-1-pyrrolidinyl)acetic acid was suspended in 450 ml of tetrahydrofuran, to which 27.8 g of isobutyl chloroformate at -15° C. and 20.3 g of triethylamine at -15° to -5° C. were added. After stirring at -10° to -5° C. for 15 minutes, 36.0 g of 1-glycyl-4-piperidinecarboxamide was added at -10° to -5° C. and then the reaction liquid was allowed to stand so as to rise its temperature to room temperature over 2 hours. The insoluble matter was filtered off and suspended in 500 ml of chloroform. The suspension was filtered off to obtain the crude crystal. The crude crystal was recrystallized from methanol to obtain the titled compound.

reactant | (2-oxo-1-pyrrolidinyl)acetic acid | 27.8 g | O=C1N(CCC1)CC(=O)O | C6H9NO3
reactant | isobutyl chloroformate | 27.8 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 20.3 g | C(C)N(CC)CC | C6H15N
reactant | 1-glycyl-4-piperidinecarboxamide | 36.0 g | NCC(=O)N1CCC(CC1)C(=O)N | C8H15N3O2
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
product | 1- {N- [(2-oxo-1-pyrrolidinyl)acetyl]glycyl}-4-piperidinecarboxamide | O=C1N(CCC1)CC(=O)NCC(=O)N1CCC(CC1)C(=O)N | C14H22N4O4
